US04683241
4-methallyloxybenzophenone
A mixture of 34 g of 4-hydroxybenzophenone, 1.0 g of sodium iodide, 18.7 ml of methallyl chloride, and 25 g of potassium carbonate in 350 ml of acetone was refluxed for 96 h. After cooling the reaction mixture was filtered, concentrated, dissolved in methylene chloride, washed with sodium hydroxide solution, washed with water, dried over magnesium sulfate, and concentrated to obtain crystalline product; 41.6 g; M.P.~85°-86.5° C.

reactant | 4-hydroxybenzophenone | 34 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | sodium iodide | 1.0 g | [I-].[Na+]
reactant | methallyl chloride | 18.7 ml | C(C(C)=C)Cl | C4H7Cl
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 350 ml | CC(=O)C | C3H6O
product | 4-methallyloxybenzophenone | C(C(C)=C)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C17H16O2
